US06225469B1
A solution of diisopropyl azodicarboxylate (12.18 g, 1.1 eq) in toluene (42 ml) was added dropwise to a stirred mixture of 1-(1,2,4-triazolo[1,5-a]pyrimidin-7-yl)ethanol (8.9 g), triphenylphosphine (14.33 g) and 4-chloro-2-nitrophenol (9.5 g, 1 eg) in toluene (140 ml) at 0-5° C. under nitrogen and the mixture stirred for 1 hour, warmed to ambient temperature and then left to stand overnight. The solvent was evaporated, and the residue dissolved in tetrahydrofuran (200 ml). Magnesium chloride (11 g; 2 eq) was added and the stirred mixture heated under reflux for 1.5 hours, cooled to ambient temperature and filtered. The filtrate solvent was evaporated and the residue partitioned between ethyl acetate (400 ml) and water (200 ml). The organic layer was washed with water (200 ml), then sodium hydroxide (1M, 100 ml) and brine (100 ml), dried (MgSO4) and the solvent evaporated. The residue was triturated with boiling propan-2-ol (200 ml), cooled and filtered to give 7-[1-(4chloro-2-nitrophenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine, (10 g), 57%, mp 158° C. which was analysed for triphenylphosphine oxide content.

reactant | diisopropyl azodicarboxylate | 12.18 g, 1.1 eq | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 1-(1,2,4-triazolo[1,5-a]pyrimidin-7-yl)ethanol | 8.9 g | N1=CN=C2N1C(=CC=N2)C(C)O | C7H8N4O
reactant | triphenylphosphine | 14.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-chloro-2-nitrophenol | 9.5 g | ClC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | Magnesium chloride | 11 g, 2 eq | [Cl-].[Mg+2].[Cl-]
solvent | toluene | 42 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | 7-[1-(4chloro-2-nitrophenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine | 10 g | ClC1=CC(=C(OC(C)C2=CC=NC=3N2N=CN3)C=C1)[N+](=O)[O-] | C13H10ClN5O3
